US07452911B2
3.14d methyl 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-3-methyl-2-(2-pyrrolidin-1-yl-ethoxy)-benzoate
Prepared according to general working method I from methyl 5-iodo-3-methyl-2-(2-pyrrolidin-1-yl-ethoxy)-benzoate (150 mg, 0.39 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (112 mg, 0.53 mmol).

reactant | methyl 5-iodo-3-methyl-2-(2-pyrrolidin-1-yl-ethoxy)-benzoate | 0.39 mmol, 150 mg | IC=1C=C(C(=C(C(=O)OC)C1)OCCN1CCCC1)C | C15H20INO3
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.53 mmol, 112 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | methyl 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-3-methyl-2-(2-pyrrolidin-1-yl-ethoxy)-benzoate | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=C(C(=C(C(=O)OC)C1)OCCN1CCCC1)C | C28H27ClN2O3
